US06093710
To a solution of 2-methoxycarbonylmethylthio-5-methoxycarbonyl-3-nitrothiophene (26.1 g) in acetic acid (360 ml) and water (36 ml) was added portionwise iron (36.5 g) at 80° C. After stirring for 3 hours at 80° C., the hot reaction mixture was filtered and the filtrate was poured into ice-water. The resulting precipitate was collected by filtration and washed with water to give 2,3-dihydro-6-methoxycarbonyl-2-oxothieno[2,3-b][1,4]thiazine (11.12 g).

reactant | 2-methoxycarbonylmethylthio-5-methoxycarbonyl-3-nitrothiophene | 26.1 g | COC(=O)CSC=1SC(=CC1[N+](=O)[O-])C(=O)OC | C9H9NO6S2
solvent | acetic acid | 360 ml | C(C)(=O)O | C2H4O2
solvent | water | 36 ml | O | H2O
catalyst | iron | 36.5 g | [Fe] | Fe
product | 2,3-dihydro-6-methoxycarbonyl-2-oxothieno[2,3-b][1,4]thiazine | 11.12 g | COC(=O)C1=CC2=C(SCC(N2)=O)S1 | C8H7NO3S2
